US06846492B2
c) 1-Amino-2-(4-dodecyloxy-3-methoxyphenyl)ethane
1-Nitro-2-(4-dodecyloxy-3-methoxyphenyl)ethene (5.7 g; 16 mmol) is suspended in THF ((100 ml) under a protective gas atmosphere. LAH solution (1M in THF; 56 ml, 56 mmol) is then slowly added dropwise. When the addition is complete, heating at reflux is carried out for 2 hours and stirring is then carried out for a further 16 hours at 25° C. Excess LAH is then decomposed with water (8 ml), 15% sodium hydroxide solution (8 ml) and again with water (24 ml). The suspension is stirred for a further 30 minutes at 25° C. and then filtration is carried out. The filtrate is concentrated to dryness by evaporation, and the brown residue is taken up in 10% aqueous hydrochloric acid (12 ml) and washed with tert-butyl methyl ether (3×10 ml). The aqueous phase is rendered alkaline with 15% sodium hydroxide solution (6 ml) and extracted with tert-butyl methyl ether (3×10 ml). The organic extracts are combined, washed with water and saturated sodium chloride solution, and dried over K2CO3. Filtration is followed by concentration to dryness by evaporation, and freeze-drying is carried out from tert-butyl alcohol/water (4:1) with the addition of hydrochloric acid.

reactant | 1-Nitro-2-(4-dodecyloxy-3-methoxyphenyl)ethene | 16 mmol, 5.7 g | [N+](=O)([O-])C=CC1=CC(=C(C=C1)OCCCCCCCCCCCC)OC | C21H33NO4
reactant | LAH | 56 mmol, 1M, 56 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 8 ml | O | H2O
reactant | sodium hydroxide | 8 ml | [OH-].[Na+]
reactant | water | 24 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-Amino-2-(4-dodecyloxy-3-methoxyphenyl)ethane | NCCC1=CC(=C(C=C1)OCCCCCCCCCCCC)OC | C21H37NO2
